US07473786B1
2-(2-(Methoxycarbonyl)phenyl)benzo[b]furan (entry 8, Table 2):
The general procedure was used to convert 2-Ethynyl-benzoic acid methyl ester and 2-iodophenol to the title product. Purification by flash chromatography (10% ethyl acetate in hexanes) gave the analytically pure product as an oil (458 mg, 67% yield). 1H NMR δ 7.75-7.70 (m, 2H), 7.61-7.40 (m, 4H), 7.31-7.22 (m, 2H), 6.92 (s, 1H), 3.81 (s, 3H). 3C NMR δ 169.35, 155.10, 154.67, 131.09, 130.94, 129.61, 129.36, 128.99, 128.88, 128.64, 124.54, 122.94, 121.21, 111.09, 104.38, 52.48. Anal. Calcd. for C16H12O3: C, 76.18; H, 4.79. Found C, 75.95; H, 4.75.

reactant | 2-Ethynyl-benzoic acid methyl ester | COC(C1=C(C=CC=C1)C#C)=O | C10H8O2
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
product | 2-(2-(Methoxycarbonyl)phenyl)benzo[b]furan | COC(=O)C1=C(C=CC=C1)C1=CC2=C(O1)C=CC=C2 | C16H12O3
